US06147216
Step t: 2-(4-Cyclopropanecarbonyl-phenyl)-2-methylpropionic Acid, Ethyl Ester
Dissolve 2-(4-cyclopropanecarbonyl-phenyl)-2-methylpropionamide (100 mg) in ethanol and bubble in hydrochloride gas for 5 minutes while stirring. Reflux for 10 hours, distill off the ethanol and extract into ethyl acetate. Evaporate the solvent in vacuo to give the title compound as an oil (50 mg).

reactant | 2-(4-cyclopropanecarbonyl-phenyl)-2-methylpropionamide | 100 mg | C1(CC1)C(=O)C1=CC=C(C=C1)C(C(=O)N)(C)C | C14H17NO2
reactant | ethanol | C(C)O | C2H6O
product | 2-(4-Cyclopropanecarbonyl-phenyl)-2-methylpropionic Acid, Ethyl Ester | 50 mg | C1(CC1)C(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C | C16H20O3
